US09233951B2
Stage 1: 5-(Pyridin-3-yl)-1,2-oxazole-3-carbonyl chloride
0.5 g (2.63 mmol) of 5-(pyridin-3-yl)-1,2-oxazole-3-carboxylic acid (known from the literature, no reference) in 25 ml of dichloromethane was admixed with 2 drops of N,N-dimethylformamide. Subsequently, 0.97 g (7.63 mmol) of oxalyl chloride was added dropwise under argon and the reaction mixture was stirred at room temperature for 1 hour. The solvent was removed under reduced pressure and the crude product was converted farther immediately.

reactant | 5-(pyridin-3-yl)-1,2-oxazole-3-carboxylic acid | 2.63 mmol, 0.5 g | N1=CC(=CC=C1)C1=CC(=NO1)C(=O)O | C9H6N2O3
reactant | oxalyl chloride | 7.63 mmol, 0.97 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
product | 5-(Pyridin-3-yl)-1,2-oxazole-3-carbonyl chloride | N1=CC(=CC=C1)C1=CC(=NO1)C(=O)Cl | C9H5ClN2O2
